US05637593
Treatment of a cooled solution of N,N,N',N'-tetramethyldiaminomethane (1.18 g, 1.58 mL, 11.5 mmol) in CH2Cl2 (10 mL) with acetyl chloride (0.90 g, 0.81 mL, 11.5 mmol) followed by a solution of 5-(4-methoxypyrimidin-2-yloxy)indole (2.0 g, 8.2 mmol) in CH2Cl2 (100 mL), gave after work-up: 3-(N,N-dimethylaminomethyl)-5-(4-methoxypyrimidin-2-yloxy)indole as a white solid. This was treated with finely ground potassium cyanide (1.75 g, 26.8 mmol) and methyl iodide (3.80 g, 1.65 mL, 26.8 mmol) in DMF (130 mL) for 16 hr, and after appropriate work-up, 3-cyanomethyl-5-(4-methoxypyrimidin-2-yloxy)indole was obtained as a white solid, 2.20 g (96%).

reactant | N,N,N',N'-tetramethyldiaminomethane | 11.5 mmol, 1.58 mL, 1.18 g | CN(C)CN(C)C | C5H14N2
reactant | acetyl chloride | 11.5 mmol, 0.81 mL, 0.90 g | C(C)(=O)Cl | C2H3ClO
reactant | 5-(4-methoxypyrimidin-2-yloxy)indole | 8.2 mmol, 2.0 g | COC1=NC(=NC=C1)OC=1C=C2C=CNC2=CC1 | C13H11N3O2
reactant | 3-(N,N-dimethylaminomethyl)-5-(4-methoxypyrimidin-2-yloxy)indole | CN(C)CC1=CNC2=CC=C(C=C12)OC1=NC=CC(=N1)OC | C16H18N4O2
reactant | potassium cyanide | 26.8 mmol, 1.75 g | [C-]#N.[K+]
reactant | methyl iodide | 26.8 mmol, 1.65 mL, 3.80 g | CI | CH3I
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 130 mL | CN(C)C=O | C3H7NO
product | 3-cyanomethyl-5-(4-methoxypyrimidin-2-yloxy)indole | C(#N)CC1=CNC2=CC=C(C=C12)OC1=NC=CC(=N1)OC | C15H12N4O2
